US08557805B2
2-(Benzyloxy)-4-[4-(methylthio)phenoxy]-1-nitrobenzene
A mixture of 2-(benzyloxy)-4-fluoro-1-nitrobenzene (16.8 g), 4-methylthiophenol (10.0 g), potassium carbonate (14.1 g), and N,N-dimethylformamide (150 mL) was stirred at 80° C. for 2 hr. The reaction solution was concentrated under reduced pressure, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained solid was washed with diethyl ether to give the title compound (23.2 g, yield 93%) as a pale-yellow solid. The pale-yellow solid was recrystallized from ethanol to give pale-yellow crystals.

reactant | 2-(benzyloxy)-4-fluoro-1-nitrobenzene | 16.8 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C13H10FNO3
reactant | 4-methylthiophenol | 10.0 g | CC1=CC=C(C=C1)S | C7H8S
reactant | potassium carbonate | 14.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 2-(Benzyloxy)-4-[4-(methylthio)phenoxy]-1-nitrobenzene | 23.2 g, yield 93% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=C(C=C1)SC)[N+](=O)[O-] | C20H17NO4S
